US07985744B2
(2) Preparation of 1α,3β-dihydroxy-20(R)-(N,N-dimethylaminocarbonylethoxy)pregna-5,7,16-triene
1α,3β-Bis(tert-butyldimethylsilyloxy)-20(R)-(N,N-dimethylaminocarbonylethoxy)pregna-5,7,16-triene (100 mg, 0.15 mmol) was treated with a 1M tetrahydrofuran solution of tetra-n-butylammonium fluoride (1.5 ml) in tetrahydrofuran (6.0 ml) in the same manner as shown in Example 4(2) (at room temperature for 30 minutes and then at 50° C. for 1.5 hours), followed by work up and purification using preparative thin layer chromatography (0.5 mm×2 plates, chloroform:methanol=10:1) to give the titled compound (52 mg, 83.0%) as a colorless foam.

reactant | 1α,3β-Bis(tert-butyldimethylsilyloxy)-20(R)-(N,N-dimethylaminocarbonylethoxy)pregna-5,7,16-triene | 0.15 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@H](C)OCCC(=O)N(C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O[Si](C)(C)C(C)(C)C | C38H67NO4Si2
reactant | tetra-n-butylammonium fluoride | 1.5 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 6.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M | O1CCCC1 | C4H8O
product | 1α,3β-dihydroxy-20(R)-(N,N-dimethylaminocarbonylethoxy)pregna-5,7,16-triene | 52 mg, 83.0% | O[C@H]1C[C@@H](CC2=CC=C3[C@@H]4CC=C([C@@H](C)OCCC(=O)N(C)C)[C@]4(CC[C@@H]3[C@@]12C)C)O | C26H39NO4
